US06635657B1
Preparation of 4-Carboxy-N-(5-chloropyridin-2-yl)-2-(1-isopropylpiperidin-4-ylmethylamino)benzamide Hydrochloride
A solution of N-(5-chloropyridin-2-yl)-2-(1-isopropylpiperidin-4-ylmethylamino)-4-methoxycarbonylbenzamide (100 mg, 0.225 mmol) in 4:1 tetrahydrofuran:water (2.5 mL) was treated with lithium hydroxide (20 mg, 0.90 mmol). After 17 h, the pH of the mixture was adjusted to 2-3 by addition of 1 N HCl. The mixture was then concentrated and the residue purified by RPHPLC affording 32 mg (30%) of the title compound as a hydrochloride salt.

reactant | N-(5-chloropyridin-2-yl)-2-(1-isopropylpiperidin-4-ylmethylamino)-4-methoxycarbonylbenzamide | 0.225 mmol, 100 mg | ClC=1C=CC(=NC1)NC(C1=C(C=C(C=C1)C(=O)OC)NCC1CCN(CC1)C(C)C)=O | C23H29ClN4O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 0.90 mmol, 20 mg | [OH-].[Li+]
reactant | HCl | 1 N | Cl | ClH
solvent | water | 2.5 mL | O | H2O
product | 4-Carboxy-N-(5-chloropyridin-2-yl)-2-(1-isopropylpiperidin-4-ylmethylamino)benzamide Hydrochloride | 32 mg, 30% | Cl.C(=O)(O)C1=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C=C1)NCC1CCN(CC1)C(C)C | InChI=1S/C22H27ClN4O3.ClH/c1-14(2)27-9-7-15(8-10-27)12-24-19-11-16(22(29)30)3-5-18(19)21(28)26-20-6-4-17(23)13-25-20;/h3-6,11,13-15,24H,7-10,12H2,1-2H3,(H,29,30)(H,25,26,28);1H
